US06503949B1
Step C: Resin Bound 3-{4-[(4-Butoxyphenylamino)methyl]benzoylamino}propionic Acid
The above resin bound 3-(4-formylbenzoylamino)propionic acid (50 mg) was treated with a 0.5 M solution of 4-butoxyaniline (0.25 mmol, 41.25 mg) in a mixture of DMF and trimethylorthoformate (1:1, 0.5 mL) and glacial acetic acid (50 μL) for 1 hour at 25° C. Sodium cyanoborohydride (250 μmol, 16 mg) dissolved in a mixture of DMF and methanol (1:1, 0.25 mL) was added, and the mixture was vortexed at 25° C. for 4 hours followed by filtration and washing with a mixture of DMF and methanol (1:1, 2×1 mL) 3×1 mL DMF and 2×1 mL dichloromethane to afford the desired product.

reactant | 3-(4-formylbenzoylamino)propionic acid | 50 mg | C(=O)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C11H11NO4
reactant | 4-butoxyaniline | 0.25 mmol, 41.25 mg | C(CCC)OC1=CC=C(N)C=C1 | C10H15NO
reactant | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 250 μmol, 16 mg | C(#N)[BH3-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | trimethylorthoformate | 0.5 mL | COC(OC)OC | C4H10O3
solvent | methanol | 0.25 mL | CO | CH4O
product | 3-{4-[(4-Butoxyphenylamino)methyl]benzoylamino}propionic Acid | C(CCC)OC1=CC=C(C=C1)NCC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C21H26N2O4
